US06713474B2
Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (30 mg, 0.065 mmol) was mixed 2-pyridylmethanol (0.05 mL) in pyridine (0.5 mL). The reaction mixture was heated at 100° C. overnight. The solvent was removed and the residue was purified by preparative reverse phase LC/MS to give 2-pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (11 mg, 0.023 mmol). The solid was dissolved in ethyl acetate (2 mL) and 1.0N HCl in ether (0.1 mL) was added slowly. The precipitate was collected through filtration under nitrogen to give 2-pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl] carbamate hydrochloride (12 mg, 0.023 mmol). 1H NMR (DMSO-d6) δ 1.92(m, 2H), 2.16(m, 2H), 3.55 (m, 2H), 3.89 (s, 3H), 4.02 (m, 2H), 4.91 (m, 1H), 5.23 (s, 2H), 7.05 (d, J=8.2 Hz, 1H), 7.14 (s, 1H), 7.37 (m, 1H), 7. 53 (d, J=7.8 Hz, 1H), 7.87 (m, 3H), 8.42(s, 1H), 8.57 (d, J=4.2 Hz, 1H), 8.85 (s, 1H). LC/MS MH+=475.

reactant | Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.065 mmol, 30 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2=CC=CC=C2)=O)OC)C2CCOCC2 | C25H25N5O4
reactant | 2-pyridylmethanol | 0.05 mL | N1=C(C=CC=C1)CO | C6H7NO
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.023 mmol, 11 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OCC2=NC=CC=C2)=O)OC)C2CCOCC2 | C25H26N6O4
